US05811574
For comparison, a known esterification process was carried out using only one reaction region. In this Comparative Example, 4 mol/h of acrylic acid, 4 mol/h of fresh butanol and 1.6 mol/h of recycled butanol (distillate from the butanol recovery) were fed to a circulation evaporator (2.5 l, level of fill 2 l). The residence time was 2.5 h. The esterification was carried out in the presence of 9.7% by weight (based on the reaction mixture) of sulfuric acid at 126° C. The reactor was connected to a bubble-cap column (30 trays), which was stabilized with 15 ml/h of hydroquinone monomethyl ether (MeHQ) in butanol. Butyl acrylate formed was removed via the top by adding 340 ml/h of water as a reflux (azeotropic entraining agent) to the column. In addition, 175 ml/h of organic reflux were added to the column in order to suppress the acrylic acid.

reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydroquinone monomethyl ether | COC1=CC=C(O)C=C1 | C7H8O2
solvent | butanol | C(CCC)O | C4H10O
product | Butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
